US06562978B1
1-tert-Butoxycarbonyl-4-(2-pyridinylthio)piperidine
To a solution of 1-tert-butoxycarbonyl-4-hydroxypiperidine (1.01 g, 5.0 mmol)and diisopropylethylamine (2.6 mL, 15 mmol)in dry dichloromethane (30 mL) was added anhydrous trifluoromethanesulfonic acid (1.0 mL, 6.0 mmol) at −78° C. The mixture was stirred for 1 minute under ice cooling, and cooled to −78° C. To the reaction mixture was added 2-mercaptopyridine (1.67 g, 15 mmol), and the mixture was stirred at room temperature for 20 hours. To the reaction mixture was added a saturated aqueous solution of sodium hydrogencarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride, successively, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (50 g, ethyl acetate-hexane 1:5) to give the titled compound as pale yellow oily substance (937 mg, 64%).

reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 5.0 mmol, 1.01 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | diisopropylethylamine | 15 mmol, 2.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic acid | 6.0 mmol, 1.0 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 2-mercaptopyridine | 15 mmol, 1.67 g | SC1=NC=CC=C1 | C5H5NS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-tert-Butoxycarbonyl-4-(2-pyridinylthio)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)SC1=NC=CC=C1 | C15H22N2O2S
